US07462647B2
Dissolve 6-(4-methoxy-phenyl)-5-{4-[4-(4,4,5,5,5-pentafluoro-pentylsulfanyl)-butoxy]-phenoxy}-naphthalen-2-ol (0.313 g, 0.516 mmol) in MeOH (15 mL). Add sodium periodate (0.122 g, 0.570 mmol) in H2O (2 mL). Stir overnight at room temperature. Extract with EtOAc (30 mL). Wash with H2O (15 mL), NaHCO3 (saturated solution, 15 mL), brine (20 mL). Dry the organics (Na2SO4), filter and concentrate in vacuo. Purify by radial chromatography (eluting with 50% EtOAc, 48% Hexanes, 2% MeOH) to afford 0.185 mg (58%) of the desired 6-(4-Methoxy-phenyl)-5-{4-[4-(4,4,5,5,5-pentafluoro-pentane-sulfinyl)-butoxy]-phenoxy}-naphthalen-2-ol as a white solid. 1H NMR (400 MHz, CDCl3): δ 7.79 (d, J=8.8 Hz, 1H), 7.55 (d, J=8.3 Hz, 1H), 7.47 (m, 3H), 7.19 (m, 1H), 7.02 (m, 1H), 6.82 (d, J=8:8 Hz, 2H), 6.57 (s, 4H), 3.76 (m, 5H), 2.65-2.84 (m, 4H), 2.10-2.25 (m, 4H), 1.79-1.93 (m, 4H). MS (ion spray): ES+: 623 (M+1); ES−: 621 (M−1).

reactant | 6-(4-methoxy-phenyl)-5-{4-[4-(4,4,5,5,5-pentafluoro-pentylsulfanyl)-butoxy]-phenoxy}-naphthalen-2-ol | 0.516 mmol, 0.313 g | COC1=CC=C(C=C1)C=1C(=C2C=CC(=CC2=CC1)O)OC1=CC=C(C=C1)OCCCCSCCCC(C(F)(F)F)(F)F | C32H31F5O4S
reactant | sodium periodate | 0.570 mmol, 0.122 g | I(=O)(=O)(=O)[O-].[Na+]
solvent | MeOH | 15 mL | CO | CH4O
solvent | H2O | 2 mL | O | H2O
product | 6-(4-Methoxy-phenyl)-5-{4-[4-(4,4,5,5,5-pentafluoro-pentane-sulfinyl)-butoxy]-phenoxy}-naphthalen-2-ol | 0.185 mg, 58% | COC1=CC=C(C=C1)C=1C(=C2C=CC(=CC2=CC1)O)OC1=CC=C(C=C1)OCCCCS(=O)CCCC(C(F)(F)F)(F)F | C32H31F5O5S
